US07495007B2
Preparation of intermediate 4-chloro-2-formyl-benzoic acid methyl ester
A solution of 5-chloro-3-hydroxy-3H-isobenzofuran-1-one (10 g, 54 mmol) and iodomethane (80 g, 560 mmol) in dichloromethane (200 mL) was heated at reflux, then the heating bath was removed. To the above solution was added triethylamine (60 g) at a rate that maintained a brisk reflux. After the addition was completed, the mixture was allowed to cool to room temperature and stirred for 72 h. The mixture was purified by column chromatography to give the title product (1.5 g).

reactant | 5-chloro-3-hydroxy-3H-isobenzofuran-1-one | 54 mmol, 10 g | ClC=1C=C2C(OC(C2=CC1)=O)O | C8H5ClO3
reactant | iodomethane | 560 mmol, 80 g | IC | CH3I
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 4-chloro-2-formyl-benzoic acid methyl ester | 1.5 g | COC(C1=C(C=C(C=C1)Cl)C=O)=O | C9H7ClO3
